* University of Toronto ECE331/354 model library
* Jul 25, 2011

* Ideal NMOS model (level = 1)
.MODEL IDEAL_NMOS NMOS LEVEL=1 VTO=0.5

* ALD ALD1101 (NMOS) and ALD 1102 (NMOS) model

* NMOS hand analysis values: Vtn = 0.71 V; UnCox(W/L) = 4.5 mA/V^2 ; VA = 80 V; 
.MODEL ALD1101 NMOS LEVEL = 2 UO = 12.72 VTO = 0.6766 NFS = 1.154E12 TOX = 1E-08 NSUB = 3.892E17 UCRIT = 4.582E05 UEXP = 0.07025 VMAX = 6363 RS = 9.491 RD = 5.659 XJ = 4.787E-09 LD = 0 DELTA = 1E-12 NEFF = 0.8345 NSS = -3.801 CGSO = 1.15E-9 CGDO = 1.15E-9 CGBO = 0 CBD = 0 CBS = 0 CJ = 0 MJ = 0.5  CJSW = 0 MJSW = 0.6057 IS = 1.0E-14 PB = 0.8 FC = 0.5 NEFF=5

* PMOS hand analysis values: Vtn = -0.65 V; UpCox(W/L) = 2.10 mA/V^2 ; VA = -19 V;
.MODEL ALD1102 PMOS LEVEL = 2 UO = 5.536 VTO = -0.6093 NFS = 3.602E12 TOX = 1E-08 NSUB = 4.046E16 UCRIT = 8.118E04 UEXP = 0.1647 VMAX = 1399 RS = 9.249 RD = 38.77 XJ = 4.443E-09 LD = 0 DELTA = 8828 NEFF = 2.145 NSS = -8.793 CGSO = 1.15E-9 CGDO = 1.15E-9 CGBO = 0 CBD = 0 CBS = 0 CJ = 0 MJ = 0.5 CJSW = 0 MJSW = 0.33 IS = 1E-14 PB = 0.8 FC = 0.5

*Feb 16, 2010
*Doc. ID: 90162, Rev. A
*File Name: part irf510_PS.txt and part irf510_PS.spi
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product data sheet.  Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.SUBCKT IRF510_EX 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 24, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.82703 LAMBDA=0 KP=2.48457
+CGSO=1.72132e-06 CGDO=5.99235e-11
RS 8 3 0.276929
D1 3 1 MD
.MODEL MD D IS=6.52734e-11 RS=0.0458243 N=1.2565 BV=100
+IBV=0.00025 EG=1.2 XTI=1 TT=0
+CJO=2.98645e-10 VJ=0.774158 M=0.422859 FC=0.5
RDS 3 1 4e+06
RD 9 1 0.0673242
RG 2 7 13.1694
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.85121e-10 VJ=0.500044 M=0.651006 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.40332e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS

*Mar 22, 2010
*Doc. ID: 90310, Rev. A
*File Name: part irf9510_sihf9510_PS.txt and part irf9510_sihf9510_PS.spi
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.SUBCKT IRF9510_EX 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jun  5, 00
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-3.38895 LAMBDA=0.0140708 KP=1.32543
+CGSO=1.86082e-06 CGDO=1e-11
RS 8 3 0.274259
D1 1 3 MD
.MODEL MD D IS=0.000633894 RS=0.126663 N=12.7812 BV=100
+IBV=0.0001 EG=1.2 XTI=1 TT=0.0001
+CJO=3.13356e-10 VJ=0.908437 M=0.419645 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.410416
RG 2 7 19.4242
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.20563e-10 VJ=3.09325 M=0.847483 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.36922e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS




.MODEL NMOS-BSIM NMOS 						LEVEL	=	49
+VERSION	=	3.1	TNOM	=	27	TOX	=	'7.8E-9/1'
+XJ	=	1E-07	NCH	=	2.18E+17	VTH0	=	'0.48+0'
+K1	=	6.07E-01	K2	=	1.24E-03	K3	=	9.68E+01
+K3B	=	-9.84E+00	W0	=	2.02E-05	NLX	=	1.62E-07
+DVT0W	=	0	DVT1W	=	0	DVT2W	=	0
+DVT0	=	2.87E+00	DVT1	=	5.86E-01	DVT2	=	-1.26E-01
+U0	=	'360*1*1'	UA	=	-8.48E-10	UB	=	2.27E-18
+UC	=	3.27E-11	VSAT	=	1.87E+05	A0	=	1.22E+00
+AGS	=	2.06E-01	B0	=	9.60E-07	B1	=	4.95E-06
+KETA	=	-1.67E-04	A1	=	0	A2	=	3.49E-01
+RDSW	=	8.18E+02	PRWG	=	2.35E-02	PRWB	=	-8.12E-02
+WR	=	9.98E-01	WINT	=	1.55E-07	LINT	=	4.51E-10
+XL	=	-5.00E-08	XW	=	1.50E-07	DWG	=	-4.27E-09
+DWB	=	4.07E-09	VOFF	=	-4.14E-02	NFACTOR	=	1.61E+00
+CIT	=	0	CDSC	=	2.39E-04	CDSCD	=	0.00E+00
+CDSCB	=	0	ETA0	=	1	ETAB	=	-1.99E-01
+DSUB	=	1	PCLM	=	1.32E+00	PDIBLC1	=	2.42E-04
+PDIBLC2	=	8.27E-03	PDIBLCB	=	-9.99E-04	DROUT	=	9.72E-04
+PSCBE1	=	7.24E+08	PSCBE2	=	9.96E-04	PVAG	=	1.00E-02
+DELTA	=	1.01E-02	RSH	=	3.33E+00	MOBMOD	=	1
+PRT	=	0	UTE	=	-1.5	KT1	=	-1.11E-01
+KT1L	=	0	KT2	=	2.22E-02	UA1	=	4.34E-09
+UB1	=	-7.56E-18	UC1	=	-5.62E-11	AT	=	3.31E+04
+WL	=	0	WLN	=	9.95E-01	WW	=	0
+WWN	=	1.00E+00	WWL	=	0	LL	=	0
+LLN	=	1	LW	=	0	LWN	=	1
+LWL	=	0	CAPMOD	=	2	XPART	=	0.5
+CGDO	=	2.76E-10	CGSO	=	2.76E-10	CGBO	=	1.00E-12
+CJ	=	'9e-4/1'	PB	=	7.95E-01	MJ	=	3.53E-01
+CJSW	=	'2.8e-10/1'	PBSW	=	7.98E-01	MJSW	=	1.73E-01
+CJSWG	=	1.81E-10	PBSWG	=	7.96E-01	MJSWG	=	1.74E-01
+CF	=	0	PVTH0	=	-1.80E-02	PRDSW	=	-7.56E+01
+PK2	=	4.48E-05	WKETA	=	-1.33E-03	LKETA	=	-8.91E-03
								
.MODEL PMOS-BSIM PMOS						LEVEL	=	49
+VERSION	=	3.1	TNOM	=	2.69E+01	TOX	=	'7.8E-9/1'
+XJ	=	1.00E-07	NCH	=	8.44E+16	VTH0	=	'-0.6+0'
+K1	=	4.82E-01	K2	=	-2.13E-02	K3	=	8.27E+01
+K3B	=	-5	W0	=	5.24E-06	NLX	=	2.49E-07
+DVT0W	=	0.00E+00	DVT1W	=	0	DVT2W	=	0
+DVT0	=	3.54E-01	DVT1	=	7.52E-01	DVT2	=	-2.98E-01
+U0	=	'150*1*1'	UA	=	1E-10	UB	=	1.75E-18
+UC	=	-2.27E-11	VSAT	=	2.01E+05	A0	=	1.04E+00
+AGS	=	2.90E-01	B0	=	1.94E-06	B1	=	5.01E-06
+KETA	=	-3.85E-03	A1	=	4.20E-03	A2	=	1.00E+00
+RDSW	=	4000	PRWG	=	-9.54E-02	PRWB	=	-1.92E-03
+WR	=	1	WINT	=	1.47E-07	LINT	=	1.04E-10
+XL	=	-4.98E-08	XW	=	1.51E-07	DWG	=	-1.09E-08
+DWB	=	1.14E-08	VOFF	=	-1.29E-01	NFACTOR	=	2.01E+00
+CIT	=	0	CDSC	=	2.40E-04	CDSCD	=	0
+CDSCB	=	0	ETA0	=	4.07E-02	ETAB	=	6.84E-03
+DSUB	=	3.21E-01	PCLM	=	5.96E+00	PDIBLC1	=	2.89E-03
+PDIBLC2	=	-1.45E-06	PDIBLCB	=	-1E-03	DROUT	=	9.93E-04
+PSCBE1	=	7.88E+10	PSCBE2	=	5E-10	PVAG	=	15
+DELTA	=	9.96E-03	RSH	=	2.6	MOBMOD	=	1
+PRT	=	0	UTE	=	-1.5	KT1	=	-1.09E-01
+KT1L	=	0	KT2	=	2.19E-02	UA1	=	4.34E-09
+UB1	=	-7.62E-18	UC1	=	-5.63E-11	AT	=	3.28E+04
+WL	=	0	WLN	=	1	WW	=	0
+WWN	=	1.00E+00	WWL	=	0	LL	=	0
+LLN	=	1	LW	=	0	LWN	=	1
+LWL	=	0	CAPMOD	=	2.01E+00	XPART	=	0.5
+CGDO	=	2.10E-10	CGSO	=	2.12E-10	CGBO	=	1.00E-12
+CJ	=	'14e-4/1'	PB	=	9.83E-01	MJ	=	5.79E-01
+CJSW	=	'3.2e-10/1'	PBSW	=	9.92E-01	MJSW	=	3.60E-01
+CJSWG	=	4.41E-11	PBSWG	=	9.85E-01	MJSWG	=	3.58E-01
+CF	=	0	PVTH0	=	2.58E-02	PRDSW	=	-3.98E+01
+PK2	=	2.02E-03	WKETA	=	2.72E-03	LKETA	=	-7.14E-03






